US09062028B2
Step D. tert-Butyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzylcarbamate
To a solution of (3-((4-bromo-1H-pyrazol-1-yl)methyl)phenyl)methanamine (84 mg, 0.317 mmol) in THF (1.6 mL) was added saturated NaHCO3 (0.75 mL), followed by slow addition of di-tert-butyl dicarbonate (0.38 mL, 0.38 mmol, 1.0 M in THF). The reaction was stirred at room temperature overnight and then partitioned between DCM and water. The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (93 mg, 81% yield). LCMS, [M+H]+=366.1.

reactant | (3-((4-bromo-1H-pyrazol-1-yl)methyl)phenyl)methanamine | 0.317 mmol, 84 mg | BrC=1C=NN(C1)CC=1C=C(C=CC1)CN | C11H12BrN3
reactant | NaHCO3 | 0.75 mL | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.38 mmol, 1.0 M, 0.38 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-((4-bromo-1H-pyrazol-1-yl)methyl)benzylcarbamate | 93 mg, 81% yield | BrC=1C=NN(C1)CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C16H20BrN3O2
